US07320995B2
3-bromo-2-phenyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine
To a solution of 2-phenyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine (1.7 g, 8.9 mmol) in dry CH2Cl2 (55 mL) slowly add bromine (0.5 mL, 9.8 mmol) and stir at room temperature for 3 hours. Then, add a saturated aqueous solution of NaHCO3 (100 mL) and extract with CH2Cl2 (3×100 mL). Wash the combined organic layers with NaHSO3 (40%, 30 mL) followed by saturated aqueous sodium chloride (50 mL), dry (MgSO4), and concentrate in vacuo. Purify the residue by flash chromatography (SiO2, eluent:CH2Cl2 to CH2Cl2/MeOH 20:1) to obtain a brown solid, 2.0 g, 82% yield. MS((ES+): m/z=277.0, (M+H)+

reactant | 2-phenyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine | 8.9 mmol, 1.7 g | C1(=CC=CC=C1)C=1N=C2N(CCCC2)C1 | C13H14N2
reactant | bromine | 9.8 mmol, 0.5 mL | BrBr | Br2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-2-phenyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyridine | 82% yield | BrC1=C(N=C2N1CCCC2)C2=CC=CC=C2 | C13H13BrN2
